### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Alternating/Basic): missing `alternatization_compLinearMap` lemma

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by themathqueen — COMMENTED** [review]
Thanks,

maintainer merge

File: Mathlib/LinearAlgebra/Alternating/Basic.lean [hunk 1]
```diff
@@ -854,6 +853,14 @@ theorem alternatization_apply (m : MultilinearMap R (fun _ : ι => M) N') (v : 
     alternatization m v = ∑ σ : Perm ι, Equiv.Perm.sign σ • m.domDomCongr σ v := by
   simp only [alternatization_def, smul_apply, sum_apply]
 
+@[simp]
+theorem alternatization_compLinearMap
+    (f : MultilinearMap R (fun _ : ι => M') N')
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Alternating/Basic.lean:858]:
```suggestion
    (f : MultilinearMap R (fun _ : ι ↦ M') N')
```

File: Mathlib/LinearAlgebra/Alternating/Basic.lean [hunk 2]
```diff
@@ -854,6 +853,14 @@ theorem alternatization_apply (m : MultilinearMap R (fun _ : ι => M) N') (v : 
...
+    (g : M →ₗ[R] M') :
+    (f.compLinearMap fun _ => g).alternatization = f.alternatization.compLinearMap g := by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Alternating/Basic.lean:860]:
```suggestion
    (f.compLinearMap fun _ ↦ g).alternatization = f.alternatization.compLinearMap g := by
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/Alternating/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Alternating/Basic.lean:858]: This file has 7 `↦` and >100 `=>`, so I think better to keep my spelling.

(In particular, the lemma above uses `=>`)

**Comment by eric-wieser** [comment]
bors merge
